US09290517B2
2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetic acid
Sodium periodate (41.5 mg, 0.194 mmol) and ruthenium (III) chloride hydrate (1.5 mg, 6.65 μmol) were added to a stirred solution of 2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetaldehyde (32.4 mg, 0.066 mmol) in carbon tetrachloride (0.2 ml), acetonitrile (0.2 ml), and water (0.26 ml). The reaction mixture was stirred at room temperature. After 6 hours, the reaction mixture was placed in the refrigerator overnight. In the morning, the reaction mixture was removed from the refrigerator and allowed to warm to room temperature. After 4 hours, the reaction mixture was partitioned between EtOAc (40 ml) and water (40 ml). The aqueous layer was extracted with EtOAc (2×20 ml). The organic layers were combined, dried over MgSO4, filtered, and evaporated under reduced pressure to give an off-white residue. This material was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-100% acetonitrile/water+0.05% TFA gradient followed by a 100% acetonitrile+0.05% TFA flush. The product fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a white solid. LC-MS: calculated for C26H22ClN3O6 507.12 observed m/e: 508.21 (M+H)+ (Rt 1.17/2 min); 1H NMR δ (ppm) (CD3OD): 7.97 (s, 1H), 7.74-7.77 (m, 4H), 7.70 (d, J=7.8 Hz, 2H), 7.48 (t, J=7.7 Hz, 2H), 7.38 (t, J=7.3 Hz, 1H), 5.58 (qt, J=5.4 Hz, J=10.8 Hz, 1H), 4.99 (t, J=5.4 Hz, 1H), 4.41 (d, J=4.9 Hz, 1H), 4.15-4.21 (m, 2H), 3.83 (abqt, J=8.9 Hz, J=69.3 Hz, 2H), 2.58-2.65 (m, 2H).

reactant | Sodium periodate | 0.194 mmol, 41.5 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | 2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetaldehyde | 0.066 mmol, 32.4 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@](CO1)(O)CC=O | C26H22ClN3O5
reactant | water | 0.26 ml | O | H2O
solvent | carbon tetrachloride | 0.2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 0.2 ml | C(C)#N | C2H3N
catalyst | ruthenium (III) chloride hydrate | 6.65 μmol, 1.5 mg | O.[Ru](Cl)(Cl)Cl
product | 2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetic acid | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@](CO1)(O)CC(=O)O | C26H22ClN3O6
